US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 9-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and propane-1,3-diamine. MS obsd. (ESI+) [(M+H)+] 411, 1H NMR (400 MHz, CD3OD) δ ppm 7.96 (dd, J=7.83, 1.01 Hz, 1 H), 7.81 (d, J=7.07 Hz, 1 H), 7.64-7.54 (m, 2 H), 7.47-7.35 (m, 2 H), 7.26 (dd, J=8.59, 1.77 Hz, 1 H), 5.98 (s, 1 H), 5.12 (s, 2 H), 3.56 (t, J=4.93 Hz, 2 H), 3.39 (t, J=6.82 Hz, 2 H), 2.82 (t, J=6.95 Hz, 2 H), 2.39 (s, 3 H), 1.89 (t, J=6.95 Hz, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | propane-1,3-diamine | C(CCN)N | C3H10N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]propane-1,3-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCCN)C)=O | C22H26N4O2S
